US07544679B2
A mixture of 430 mg (1.09 mmol) (R/S)-2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid methyl ester in 6 ml tetrahydrofuran and of 50.1 mg (1.19 mmol) lithiumhydroxide monohydrate in 3 ml water was stirred overnight at room temperature. The solvent was evaporated and the residue extracted at pH 1 with ethylacetate to yield 390 mg (94%) (R/S)-2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid, MS (m/e): 381.0 (M−H)−.

reactant | (R/S)-2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid methyl ester | 1.09 mmol, 430 mg | COC(C(CC(C)C)(C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O)O)=O | C22H24N2O5
reactant | lithiumhydroxide monohydrate | 1.19 mmol, 50.1 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | (R/S)-2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid | 390 mg, 94% | OC(C(=O)O)(CC(C)C)C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C21H22N2O5
